US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyridinone
A solution of 4-(2-bromoethyl)phenyl 4-Chloro-3-(trifluoromethyl)phenyl ether (335 mg, 0.883 mmol), 2,4-dihydroxypyridine (200 mg, 1.800 mmol), and cesium Carbonate (600 mg, 1.842 mmol) in N,N-dimethylformamide (DMF) (10 mL) was stirred at 120° C. for 4 h, then cooled to rt, Purification via Biotage-C18 system afforded the title product (60 mg) as a white solid.

reactant | 4-(2-bromoethyl)phenyl 4-Chloro-3-(trifluoromethyl)phenyl ether | 0.883 mmol, 335 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCBr)C(F)(F)F | C15H11BrClF3O
reactant | 2,4-dihydroxypyridine | 1.800 mmol, 200 mg | OC1=NC=CC(=C1)O | C5H5NO2
reactant | cesium Carbonate | 1.842 mmol, 600 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyridinone | 60 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=CC(NC=C1)=O)C(F)(F)F | C20H15ClF3NO3
